US04257947
To a solution of 43 mg (0.1 mmole) of trichloroethyl cis-7-t-butoxycarbonylamino-8-oxo-4-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylate in 6 ml of dimethylformamide and 6 l ml of acetic acid is added over a 1.5 hr period 250 mg (3.8 mmole) zinc dust. The mixture is stirred vigorously for 3 hrs and then diluted with 50 ml of water. The mixture is acidified with dilute HCl, filtered and extracted with ethyl acetate. The organic phase is extracted with 5% NaHCO3 which is acidified and reextracted into ethyl acetate. The final extracts are washed with brine, dried, and evaporated to give cis-7-t-butoxycarbonylamino-8-oxo-4-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | trichloroethyl cis-7-t-butoxycarbonylamino-8-oxo-4-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylate | 0.1 mmole, 43 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@H]2CSC=C(N2C1=O)C(=O)OCC(Cl)(Cl)Cl | C14H17Cl3N2O5S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
catalyst | zinc | 3.8 mmole, 250 mg | [Zn] | Zn
product | cis-7-t-butoxycarbonylamino-8-oxo-4-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1[C@H]2CSC=C(N2C1=O)C(=O)O | C12H16N2O5S
